US08372981B2
After dissolving 260 mg of tert-butyl 4-{[(4-{[1-(anilinocarbonyl)-3-chloro-1H-5-indolyl]oxy}-2-pyridyl)amino]carbonyl}-1-piperidinecarboxylate in 5 ml of trifluoroacetic acid, the solution was stirred at room temperature for 5 minutes. Bicarbonate water and 5N aqueous sodium hydroxide were added, and the mixture was extracted with ethyl acetate and dried over magnesium sulfate. The drying agent was filtered off and the solvent was distilled off under reduced pressure to obtain 200 mg of N1-phenyl-3-chloro-5-[(2-{[(4-piperidyl)carbonyl]amino}-4-pyridyl)oxy]-1H-1-indolecarboxamide as a faint yellow solid. After adding 0.5 ml of formaldehyde (37% in water), 170 mg of sodium triacetoxyborohydride, 50 mg of acetic acid and 5 ml of tetrahydrofuran to the solid, the mixture was stirred at room temperature for 10 minutes. Bicarbonate water and 5N aqueous sodium hydroxide were added, extraction was performed with ethyl acetate, and the extract was washed once with saline. The obtained ethyl acetate solution was passed through a glass filter coated with NH type silica gel. The silica gel was washed with ethyl acetate, and the solvent was distilled off under reduced pressure to obtain 210 mg of a faint yellow oil. The oil was solidified from a hexane and ethyl acetate mixed solvent to obtain 90 mg of a powder.

reactant | tert-butyl 4-{[(4-{[1-(anilinocarbonyl)-3-chloro-1H-5-indolyl]oxy}-2-pyridyl)amino]carbonyl}-1-piperidinecarboxylate | 260 mg | N(C1=CC=CC=C1)C(=O)N1C=C(C2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)Cl | C31H32ClN5O5
reactant | Bicarbonate water | O.C(O)(O)=O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N1-phenyl-3-chloro-5-[(2-{[(4-piperidyl)carbonyl]amino}-4-pyridyl)oxy]-1H-1-indolecarboxamide | 200 mg | C1(=CC=CC=C1)NC(=O)N1C=C(C2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)C1CCNCC1)Cl | C26H24ClN5O3
